US07842810B2
7-Fluoro-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid
To a solution of KMnO4 (0.35 g, 2.2 mmol) in H2O (11 mL) at 80° C. was added 7-fluoro-2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde (0.20 g, 1.1 mmol). The resulting suspension was stirred at 100° C. for 24 h. The reaction mixture was filtered and the solids were washed with H2O (30 mL). The filtrate was acidified with concentrated HCl, which led to the formation of a white precipitate, which was collected, washed with H2O and dried in vacuo to provide 0.12 g (57%) of the title compound as a white solid. MS (ESI): exact mass calculated for C9H7FO4, 198.03; m/z not found. 1H NMR (400 MHz, DMSO-d6): 12.95 (s, 1H), 7.29 (d, J=7.2, 1H), 6.87 (d, J=11.6, 1H), 4.34-4.31 (m, 2H), 4.27-4.24 (m, 2H).

reactant | KMnO4 | 2.2 mmol, 0.35 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | 7-fluoro-2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde | 1.1 mmol, 0.20 g | FC=1C(=CC2=C(OCCO2)C1)C=O | C9H7FO3
solvent | H2O | 11 mL | O | H2O
product | 7-Fluoro-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid | 0.12 g, 57% | FC=1C(=CC2=C(OCCO2)C1)C(=O)O | C9H7FO4
